US07402680B2
1-Benzyl-3-(5-methyl-thiophen-2-yl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
1-Benzyl-3-(5-methyl-thiophen-2-yl)-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester. A mixture of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (0.54 g) and 300 μL of benzylamine in toluene (10 mL) was heated at reflux for 6 h using a Dean-Stark apparatus. The solution was cooled to RT and 0.47 g of 2-methyl-5-(2-nitro-vinyl)-thiophene was added. The mixture was stirred for 16 h at RT and then was concentrated in vacuo. The residue was chromatographed on SiO2 (1 to 30% EtOAc/hexanes) to afford 281.9 mg of the desired compound. TLC (SiO2, 33% EtOAc/hexanes): Rf=0.54.

reactant | 1-Benzyl-3-(5-methyl-thiophen-2-yl)-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(C=C2C=2SC(=CC2)C)CC2=CC=CC=C2 | C24H28N2O2S
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.54 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | benzylamine | 300 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-methyl-5-(2-nitro-vinyl)-thiophene | 0.47 g | CC=1SC(=CC1)C=C[N+](=O)[O-] | C7H7NO2S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Benzyl-3-(5-methyl-thiophen-2-yl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 281.9 mg | C(C1=CC=CC=C1)N1C=C(C=2CNCCC21)C=2SC(=CC2)C | C19H20N2S
